US05243054
30d) 1-[[2'-(2,5-Dihydro-5-oxo-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl]-2-propylbenzimidazole-7carboxylic acid
A mixture of methyl 1-[[2'-(2,5-dihydro-5-oxo-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl]-2-propylbenzimidazole-7-carboxylate (703 mg) in 0.3N-NaOH (12 ml) was stirred at 60° C. for one hour, and then adjusted to pH 3 with 0.1N-HCl. Resulting precipitates were extracted with a mixture of chloroform-ethanol (10:1; 150 ml). The solvent was evaporated under reduced pressure, and the residue was crystallized from methanol to give the title compound as colorless prisms (550 mg, 90%), m.p. 169°-171° C.

reactant | methyl 1-[[2'-(2,5-dihydro-5-oxo-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl]-2-propylbenzimidazole-7-carboxylate | 703 mg | O=C1N=C(NO1)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)CCC | C27H24N4O4
reactant | NaOH | 12 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 1-[[2'-(2,5-Dihydro-5-oxo-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl]-2-propylbenzimidazole-7carboxylic acid | 550 mg, 90% | O=C1N=C(NO1)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)O)CCC | C26H22N4O4
